US08138345B2
Preparation of (3-{(S)-2-[(R)-2-(tert-Butyldimethylsilanyloxy)-2-(8-hydroxy-2-oxo-1,2-dihydroquinolin-5-yl)ethylamino]propyl}phenyl)acetic Acid
A solution of (3-{(S)-2-[(R)-2-(8-benzyloxy-2-oxo-1,2-dihydroquinolin-5-yl)-2-(tert-butyldimethylsilanyloxy)ethylamino]propyl}phenyl)acetic acid (˜1.3 mmol) in EtOH (8 mL) was purged with dry nitrogen and then palladium on carbon (10%, ˜50% water, Degussa type, 300 mg) was added. This mixture was purged with hydrogen and then stirred under an atmosphere of hydrogen (balloon) for 1 h. The mixture was then filtered through Celite and the filter bed washed with MeOH (20 mL) and EtOAc (20 mL). The filtrate was concentrated under reduced pressure and the residue was purified by silica gel flash chromatography (0-20% MeOH in DCM) to give the title compound (300 mg, 40% yield) as a yellow solid.

reactant | (3-{(S)-2-[(R)-2-(8-benzyloxy-2-oxo-1,2-dihydroquinolin-5-yl)-2-(tert-butyldimethylsilanyloxy)ethylamino]propyl}phenyl)acetic acid | ˜1.3 mmol | C(C1=CC=CC=C1)OC=1C=CC(=C2C=CC(NC12)=O)[C@H](CN[C@H](CC=1C=C(C=CC1)CC(=O)O)C)O[Si](C)(C)C(C)(C)C | C35H44N2O5Si
solvent | EtOH | 8 mL | CCO | C2H6O
catalyst | palladium on carbon | 300 mg | [Pd] | Pd
product | (3-{(S)-2-[(R)-2-(tert-Butyldimethylsilanyloxy)-2-(8-hydroxy-2-oxo-1,2-dihydroquinolin-5-yl)ethylamino]propyl}phenyl)acetic Acid | 300 mg, 40% yield | [Si](C)(C)(C(C)(C)C)O[C@@H](CN[C@H](CC=1C=C(C=CC1)CC(=O)O)C)C1=C2C=CC(NC2=C(C=C1)O)=O | C28H38N2O5Si
